US06133264
9.16 Grams of 5-acetoxy-8-tetrahydropyranyloxy-3,4-dihydro-2(1H)-quinolinone was dissolved in 200 ml of methanol, to this solution was added 45 ml of an aqueous solution of 10%-potassium carbonate, refluxed by heating for 1 hour, then concentrated to dryness under reduced pressure, there was obtained 5-hydroxy-8-tetrahydropyranyloxy-3,4-dihydro-2(1H)-quinolinone. This product was suspended in 100 ml of DMF, further 4.1 g of potassium carbonate was added to this suspension and stirred. To this mixture was added 3 ml of allyl bromide at room temperature and stirred for 8 hours. To this reaction mixture was added 200 ml of water, and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-n-hexane, there was obtained 6 g of 8-tetrahydropyranyloxy-5-allyloxy-3,4-dihydro-2(1H)-quinolinone as white solid product.

reactant | 5-acetoxy-8-tetrahydropyranyloxy-3,4-dihydro-2(1H)-quinolinone | C(C)(=O)OC1=C2CCC(NC2=C(C=C1)OC1OCCCC1)=O | C16H19NO5
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 200 ml | CO | CH4O
product | 5-hydroxy-8-tetrahydropyranyloxy-3,4-dihydro-2(1H)-quinolinone | OC1=C2CCC(NC2=C(C=C1)OC1OCCCC1)=O | C14H17NO4
